US09035051B1
(2S)-2-Amino-1-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]propan-1-one hydrochloride salt
Add tert-butyl N-[(1S)-2-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]-1-methyl-2-oxo-ethyl]carbamate (28.75 g, 67.49 mmol) to 1,4-dioxane (143.7 mL). Then add 4M hydrogen chloride in 1,4-dioxane (168.7 mL, 674.9 mmol) and stir for 10 min. Add MeOH (20 mL) and stir the mixture for 3 h with vigorous stirring. Concentrate the mixture under reduced pressure, dilute the solids with diethyl ether (200 mL), and stir overnight. Filter the material, rinsing with diethyl ether (2×25 mL). Dry the material via suction for 15 min, then place under vacuum for 1 h at 45° C. to obtain the title compound as a crude white powder (27.7 g). LC-ES/MS m/z (35Cl/37Cl) 326.1/328.2 (M+1).

reactant | tert-butyl N-[(1S)-2-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]-1-methyl-2-oxo-ethyl]carbamate | 67.49 mmol, 28.75 g | NC1=NC(=NC(=C1CCC1CCN(CC1)C([C@H](C)NC(OC(C)(C)C)=O)=O)Cl)C | C20H32ClN5O3
reactant | 1,4-dioxane | 143.7 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | 1,4-dioxane | 674.9 mmol, 168.7 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 20 mL | CO | CH4O
product | (2S)-2-Amino-1-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]propan-1-one hydrochloride salt | Cl.N[C@H](C(=O)N1CCC(CC1)CCC=1C(=NC(=NC1Cl)C)N)C | InChI=1S/C15H24ClN5O.ClH/c1-9(17)15(22)21-7-5-11(6-8-21)3-4-12-13(16)19-10(2)20-14(12)18;/h9,11H,3-8,17H2,1-2H3,(H2,18,19,20);1H/t9-;/m0./s1
